US06756378B2
To a stirred solution of 2-amino-2-methyl-1-propanol (8.4 g, 93.89 mmol) and triethylamine (11.4 g, 0.113 mol) in DMF-water (1:1, v/v, 100 mL) was added di-tert-butyl dicarbonate (25 g, 0.115 mol) at 5 to 10° C. The resulting solution was stirred for 2 hr at room temp. The mixture was diluted with water (100 mL) and extracted with EtOAc. The extract was washed with brine, dried over Na2SO4, and evaporated. The residue was chromatographed on silica-gel with CH2Cl2 as eluent to give 12 g (68%) 2-tert-butoxycarbonylamino-2-methyl-1-propanol as a syrup. 1H-NMR (CDCl3) δ1.25 (s, 6H), 1.43 (s, 9H), 3.59 (d, J=8.3 Hz, 2H), 4.68 (br, 1H).

reactant | 2-amino-2-methyl-1-propanol | 93.89 mmol, 8.4 g | NC(CO)(C)C | C4H11NO
reactant | triethylamine | 0.113 mol, 11.4 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.115 mol, 25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF water | 100 mL | CN(C)C=O.O
solvent | water | 100 mL | O | H2O
product | 2-tert-butoxycarbonylamino-2-methyl-1-propanol | 12 g, 68% | C(C)(C)(C)OC(=O)NC(CO)(C)C | C9H19NO3
